US06924276B2
Step (e): Preparation of (±)-2-(3-methoxycyclopentylmethylcarboxy)-4-phenyl-thiazol-5-carboxylic Acid
To a stirred solution of (±)-2-(3-methoxycyclopentylmethylcarboxy)-4-phenyl-thiazol-5-carboxylic acid, ethyl ester (0.01 mol), which may be prepared as described in Step (d) above, in a solvent such as ethanol, aqueous ethanol, or THF-ethanol, is added a solution of sodium or potassium hydroxide in ethanol at a concentration of from 1 M to about 2 M, and the mixture is stirred. Reaction progress may be followed by TLC or HPLC. When a sufficient amount of the desired product is formed, the mixture is rotary evaporated to remove most of the organic solvents, and the concentrated mixture is washed with ethyl acetate. The aqueous layer is acidified with hydrochloric acid to a pH of about 2 to about 4, and the product which precipitates is filtered off to give (±)-2-(3-methoxycyclopentylmethylcarboxy)-4-phenyl-thiazol-5-carboxylic acid, which may be purified, if needed or desired, by chromatography on silica gel or crystallization.

reactant | (±)-2-(3-methoxycyclopentylmethylcarboxy)-4-phenyl-thiazol-5-carboxylic acid, ethyl ester | 0.01 mol | COC1CC(CC1)COC(=O)C=1SC(=C(N1)C1=CC=CC=C1)C(=O)OCC | C20H23NO5S
reactant | THF ethanol | C1CCOC1.C(C)O
reactant | sodium | [Na] | Na
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | (±)-2-(3-methoxycyclopentylmethylcarboxy)-4-phenyl-thiazol-5-carboxylic Acid | COC1CC(CC1)COC(=O)C=1SC(=C(N1)C1=CC=CC=C1)C(=O)O | C18H19NO5S
